US20010006969A1
2-Butylamino-4-(3-methyl-2-butenylamino)-6-nitroquinazoline
2-chloro-4-(3-methyl-2-butenylamino)-6-nitroquinazoline was obtained in accordance with the process described in Example 59, starting from 278 mg (1.45 mmol) of 6-nitroquinazoline-2,4(1H,3H)-dione. After 1.00 ml (10.12 mmol) of butylamine was added to the compound thus obtained and the reaction mixture was stirred at room temperature for 3 hours, water was added to the reaction solution, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 50 mg (11.9%) of the title compound.

reactant | 6-nitroquinazoline-2,4(1H,3H)-dione | 1.45 mmol, 278 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | butylamine | 10.12 mmol, 1.00 ml | C(CCC)N | C4H11N
solvent | water | O | H2O
product | 2-Butylamino-4-(3-methyl-2-butenylamino)-6-nitroquinazoline | 50 mg, 11.9% | C(CCC)NC1=NC2=CC=C(C=C2C(=N1)NCC=C(C)C)[N+](=O)[O-] | C17H23N5O2
